US07393858B2
(RS)-2-Oxa-8-aza-spiro[4.5]decan-4-ol hydrochloride
4-Hydroxy-2-oxa-8-aza-spiro[4.5]decane-8-carboxylic acid 1,1-dimethylethyl ester (Description 7; 0.86 g, 3.3 mmol) was stirred overnight in 2M ethereal hydrogen chloride. The mixture was filtered and the solid dried to give the title compound (0.5 g, 77%).

reactant | 4-Hydroxy-2-oxa-8-aza-spiro[4.5]decane-8-carboxylic acid 1,1-dimethylethyl ester | 3.3 mmol, 0.86 g | CC(C)(C)OC(=O)N1CCC2(C(COC2)O)CC1 | C13H23NO4
reactant | hydrogen chloride | 2M | Cl | ClH
product | (RS)-2-Oxa-8-aza-spiro[4.5]decan-4-ol hydrochloride | 0.5 g, 77% | Cl.C1OCC(C12CCNCC2)O | InChI=1S/C8H15NO2.ClH/c10-7-5-11-6-8(7)1-3-9-4-2-8;/h7,9-10H,1-6H2;1H
